*** bruh ***

.param scale = 12

.lib "$PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

Vdd Vdd 0 DC 1.8
Vin Vin 0 DC 0.8

Xp1 Vdd Vin Vout Vdd MY_PFET W_val=5*12 L_val=0.30

Vtest Vout 0 DC 0.8

*** LOAD ***
*Iss 0 Nload DC 75u
*XnMirror1 Nload Nload 0 0 MY_NFET W_val=5 L_val=0.50
*Xnload Vout Nload 0 0 MY_NFET W_val = 5 L_val=0.50

*** devices ***
.subckt MY_PFET Vs Vg Vd Vb W_val=5 L_val=0.30
    XMP Vd Vg Vs Vb sky130_fd_pr__pfet_01v8 W='W_val' L='L_val' 
+ ad=  {int((nf+1)/2)*w/nf*0.29}
+ as=  {int((nf+2)/2)*w/nf*0.29}
+ pd=  {2*int((nf+1)/2)*(w/nf+0.29)}
+ ps=  {2*int((nf+2)/2)*(w/nf+0.29)}
+ nrd= {0.29/w}
+ nrs= {0.29/w}
+ sa = 0 sb = 0 sd = 0
.ends MY_PFET

.subckt MY_NFET Vd Vg Vs Vb W_val=5 L_val=0.15
    XMN Vd Vg Vs Vb sky130_fd_pr__nfet_01v8 W='W_val' L='L_val' 
+ ad=  {int((nf+1)/2)*w/nf*0.29}
+ as=  {int((nf+2)/2)*w/nf*0.29}
+ pd=  {2*int((nf+1)/2)*(w/nf+0.29)}
+ ps=  {2*int((nf+2)/2)*(w/nf+0.29)}
+ nrd= {0.29/w}
+ nrs= {0.29/w}
+ sa = 0 sb = 0 sd = 0
.ends MY_NFET

.control
    op
    print vdd#branch
.endc

.end